US08476286B2
Synthesis of 1-[2-(6-Chloro-hexyloxy)-benzyl]-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one
To a solution of 482 mg (1.13 mmol) 1-(2-hydroxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one in 2 ml dichloromethane is added 1 ml 1M aqueous NaOH. After stirring for 5 minutes the solvents are evaporated. The residue is dissolved in 4.8 ml DMEU and 0.25 ml (1.70 mmol) 1-bromo-6-chlorohexane are added. After stirring for 3 days at rt additional 0.083 ml 1-bromo-6-chlorohexane are added and stirring at rt is continued for 1 day. The reaction mixture is poured onto water, extracted with ethyl acetate and purified by flash chromatography (hexanes/ethyl acetate 6:1).

reactant | 1-(2-hydroxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | 1.13 mmol, 482 mg | OC1=C(CN2C(N=C(C3=CC(=CC=C23)OCC#C)C2=CC=C(C=C2)C(C)C)=O)C=CC=C1 | C27H24N2O3
reactant | NaOH | 1M, 1 ml | [OH-].[Na+]
reactant | 1-bromo-6-chlorohexane | 1.70 mmol, 0.25 ml | BrCCCCCCCl | C6H12BrCl
reactant | 1-bromo-6-chlorohexane | 0.083 ml | BrCCCCCCCl | C6H12BrCl
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-[2-(6-Chloro-hexyloxy)-benzyl]-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | ClCCCCCCOC1=C(CN2C(N=C(C3=CC(=CC=C23)OCC#C)C2=CC=C(C=C2)C(C)C)=O)C=CC=C1 | C33H35ClN2O3
